US20010027208A1
According to (16-1) described in Reference Example 16, 659 mg (3.80 mmol) of tert-butyl N-(allyloxy)carbamate prepared from tert-butyl N-hydroxycarbamate, sodium hydride and allyl bromide was dissolved in 10 ml of dichloromethane, and the thus prepared solution was mixed with 886 mg (4.67 mmol) of m-chloroperbenzoic acid and stirred at room temperature for 24 hours. The reaction solution was filtered, mixed with a 1 N sodium hydroxide aqueous solution and extracted with chloroform. The chloroform layer was washed with saturated brine and dried with anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) to obtain 447 mg (yield, 62%) of tert-butyl N-(2,3-epoxypropoxy)carbamate.

reactant | tert-butyl N-(allyloxy)carbamate | 3.80 mmol, 659 mg | C(C=C)ONC(OC(C)(C)C)=O | C8H15NO3
reactant | tert-butyl N-hydroxycarbamate | ONC(OC(C)(C)C)=O | C5H11NO3
reactant | sodium hydride | [H-].[Na+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | m-chloroperbenzoic acid | 4.67 mmol, 886 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert-butyl N-(2,3-epoxypropoxy)carbamate | 447 mg, 62% | O1C(CONC(OC(C)(C)C)=O)C1 | C8H15NO4
